US08957089B2
125.1 1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-ol
1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol (1.93 g, 6.17 mmol) were dissolved in methanol (100 ml) under an atmosphere of nitrogen. 10% Pd/C (0.19 g) were added and the reaction mixture stirred at room temperature under an atmosphere of hydrogen for 48 hours. The catalyst was removed by filtration and the solvent was evaporated in vacuo. The crude product was used without further purification for the next step. Yield: 1.75 g (5.52 mmol, 90%).

reactant | 1-[1-(6-Chloropyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol | 6.17 mmol, 1.93 g | ClC1=CC=CC(=N1)C1(CCC1)C1=NCCC2=CC=C(C=C12)O | C18H17ClN2O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.19 g | [Pd] | Pd
product | 1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-ol | N1=C(C=CC=C1)C1(CCC1)C1NCCC2=CC=C(C=C12)O | C18H20N2O
